US04749792
(G) (S)-3-Amino-5-methyl-1-[(2-methylpropyl)amino]-2-hexanone, dihydrochloride
(S)-[4-Methyl-1-[[(2-methylpropyl)amino]acetyl]butyl]carbamic acid, 1,1-dimethylethyl ester, hydrochloride (0.66 g, 1.95 mmol) was dissolved in a solution of hydrogen chloride in acetic acid (1.5N, 7 ml) and allowed to stand at room temperature for 20 minutes. It was evaporated in vacuo and then re-evaporated from benzene. The residue was crystallized from isopropanol yielding 240 mg of the title compound, melting point 148°-150° C.

reactant | (S)-[4-Methyl-1-[[(2-methylpropyl)amino]acetyl]butyl]carbamic acid, 1,1-dimethylethyl ester, hydrochloride | 1.95 mmol, 0.66 g | Cl.CCCC[C@@H](C(CNCC(C)C)=O)NC(OC(C)(C)C)=O
reactant | acetic acid | 1.5N, 7 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen chloride | Cl | ClH
product | (S)-3-Amino-5-methyl-1-[(2-methylpropyl)amino]-2-hexanone, dihydrochloride | Cl.Cl.N[C@H](C(CNCC(C)C)=O)CC(C)C | InChI=1S/C11H24N2O.2ClH/c1-8(2)5-10(12)11(14)7-13-6-9(3)4;;/h8-10,13H,5-7,12H2,1-4H3;2*1H/t10-;;/m0../s1
